US04761489
A mixture of 430 g (5 moles) of 2,2-dimethylpropanal, 3 g of p-toluenesulfonic acid and 440 g (5 moles) of but-2-ene-1,4-diol in 1000 ml of toluene was refluxed, and the water of reaction formed was removed in the course of 3 hours (h). The mixture was then left to cool to room temperature, 10 ml of a 25% strength sodium hydroxide solution were added to the solution, the mixture was washed neutral with a little water and the toluene was distilled off under reduced pressure at from 50° to 60° C. The residue obtained was distilled under 0.1 mbar to give 702 g of 2-tert-butyl-4,7-dihydro-1,3-dioxepin of boiling point 80° C./32 mbar.

reactant | 2,2-dimethylpropanal | 5 moles, 430 g | CC(C=O)(C)C | C5H10O
reactant | but-2-ene-1,4-diol | 5 moles, 440 g | C(C=CCO)O | C4H8O2
reactant | water | O | H2O
solvent | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-tert-butyl-4,7-dihydro-1,3-dioxepin | 702 g | C(C)(C)(C)C1OCC=CCO1 | C9H16O2
